US04062955
2,3-Bis(piperidinomethyl)naphthalene dihydrochloride
To a stirred solution of 2-piperidinomethylnaphthalene (5.6 g) in dry ether (200 ml) was added, under nitrogen, a 1.5M ethereal solution of butyl lithium (18.3 ml) and the mixture was kept at room temperature for 24 hours. N-(Chloromethyl)piperidine (7.34 g) was added, the mixture was heated under reflux for 1 hour, and poured into water (1 l). The precipitated material was extracted into ether, the extract was washed with water, dried over anhydrous magnesium sulphate and evaporated to dryness. The residue was purified by chromatography on silica and an ethereal solution of the product was treated with ethereal hydrogen chloride. 1,2-Bis(piperidinomethyl)naphthalene dihydrochloride crystallised from propan-2-ol as prisms, m.p. 240°.

reactant | 2-piperidinomethylnaphthalene | 5.6 g | N1(CCCCC1)CC1=CC2=CC=CC=C2C=C1 | C16H19N
reactant | butyl lithium | 18.3 ml | C(CCC)[Li]
reactant | N-(Chloromethyl)piperidine | 7.34 g | ClCN1CCCCC1 | C6H12ClN
reactant | water | 1 l | O | H2O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2,3-Bis(piperidinomethyl)naphthalene dihydrochloride | Cl.Cl.N1(CCCCC1)CC1=CC2=CC=CC=C2C=C1CN1CCCCC1 | InChI=1S/C22H30N2.2ClH/c1-5-11-23(12-6-1)17-21-15-19-9-3-4-10-20(19)16-22(21)18-24-13-7-2-8-14-24;;/h3-4,9-10,15-16H,1-2,5-8,11-14,17-18H2;2*1H
